US04898872
2-Methoxy-6-(1-methylbenzimidazol-2-yl)-8-methyl-quinoline
n-Butyllithium (3.55 cm3 of a 1.55M solution in hexane) was added dropwise to a stirred solution of 1-methyl-benzimidazole (0.6 g) in tetrahydrofuran (THF) (10 cm3) at -50° under nitrogen. After 1 hour a solution of anhydrous zinc chloride (1.5 g) in THF (10 cm3) was added and the mixture allowed to warm to room temperature. 2-Methoxy-6-bromo-8-methylquinoline (1.25 g) and tetrakis (triphenylphosphine)palladium (O) (0.05 g) were added and the mixture heated under reflux for 4 hours. Saturated ammonium chloride solution (10 cm3) was added to the cooled mixture, followed by a solution of ethylenediamine tetraacetic acid disodium salt (12.0 g) in water (200 cm3). Ethyl acetate (200 cm3 and methanol (20 cm3) were added and the phase separated. The aqueous layer was further extracted with methanol:dichloromethane; 1:20 by volume (2×200 cm3) and the combined and dried (MgSO4) organic extracts were evaporated in vacuo to afford a solid which was chromatographed on silica (Merck "MK 60.9385" [Trade Mark]) eluting with methanol:dichloromethane, 1:100 by volume. Combination and evaporation of appropriate fractions gave the title compound (1.05 g) which was characterised spectroscopically and used in Example 4 without further purification.

reactant | n-Butyllithium | C(CCC)[Li]
reactant | 1-methyl-benzimidazole | 0.6 g | CN1C=NC2=C1C=CC=C2 | C8H8N2
reactant | 2-Methoxy-6-bromo-8-methylquinoline | 1.25 g | COC1=NC2=C(C=C(C=C2C=C1)Br)C | C11H10BrNO
reactant | ammonium chloride | 10 cm3 | [Cl-].[NH4+]
reactant | ethylenediamine tetraacetic acid disodium salt | 12.0 g | [Na+].[Na+].C(CN(CC(=O)[O-])CC(=O)[O-])N(CC(=O)O)CC(=O)O
solvent | hexane | CCCCCC | C6H14
solvent | tetrahydrofuran | 10 cm3 | O1CCCC1 | C4H8O
solvent | THF | 10 cm3 | O1CCCC1 | C4H8O
solvent | water | 200 cm3 | O | H2O
catalyst | zinc chloride | 1.5 g | [Cl-].[Zn+2].[Cl-]
solvent | methanol | 20 cm3 | CO | CH4O
solvent | Ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 2-Methoxy-6-(1-methylbenzimidazol-2-yl)-8-methyl-quinoline | 1.05 g | COC1=NC2=C(C=C(C=C2C=C1)C1=NC2=C(N1C)C=CC=C2)C | C19H17N3O
